US08471027B2
A solution of 1-(2-phenylamino-pyridin-3-yl)-ethanone (2.13 g, 10.0 mmol) in methanol (42 mL, 0.24M) was treated with sodium methoxide (25% wt. solution methanol, 4.6 mL, 20.1 mmol) and methyl 4-formylbenzoate (2.04 g, 12.4 mmol). The reaction was stirred at 25° C. over 3 d. At this time, the reaction was diluted with water (100 mL), acidified with a 1N aqueous hydrochloric acid solution, and extracted with a 10% methanol/methylene chloride solution. The combined organics were dried over magnesium sulfate, filtered, rinsed with methylene chloride, and concentrated onto silica gel in vacuo. Flash chromatography (AnaLogix Intelliflash 280, 80 g silica gel column, 20% ethyl acetate/hexanes) afforded 4-[(E)-3-oxo-3-(2-phenylamino-pyridin-3-yl)-propenyl]-benzoic acid methyl ester (3.43 g, 95%) as an orange solid.

reactant | 1-(2-phenylamino-pyridin-3-yl)-ethanone | 10.0 mmol, 2.13 g | C1(=CC=CC=C1)NC1=NC=CC=C1C(C)=O | C13H12N2O
reactant | sodium methoxide | 20.1 mmol, 4.6 mL | C[O-].[Na+]
reactant | methyl 4-formylbenzoate | 12.4 mmol, 2.04 g | C(=O)C1=CC=C(C(=O)OC)C=C1 | C9H8O3
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 0.24M, 42 mL | CO | CH4O
solvent | water | 100 mL | O | H2O
product | 4-[(E)-3-oxo-3-(2-phenylamino-pyridin-3-yl)-propenyl]-benzoic acid methyl ester | 3.43 g, 95% | COC(C1=CC=C(C=C1)\C=C\C(C=1C(=NC=CC1)NC1=CC=CC=C1)=O)=O | C22H18N2O3
